US05455273
trans-4-(4-Bromomethylphenyl)-N-(4-chlorobenzoyl)-N-methylcyclohexylamine
710 mg of trans-N-(4-chlorobenzoyl)-N-methyl-4-(4-hydroxymethylphenyl)cyclohexylamine are reacted in 20 ml of methylene chloride with 723 mg of tetrabromomethane and 572 mg of triphenylphosphine. 250 mg of the title compound are obtained, melting point 181°-183° C.

reactant | trans-N-(4-chlorobenzoyl)-N-methyl-4-(4-hydroxymethylphenyl)cyclohexylamine | 710 mg | ClC1=CC=C(C(=O)N(C)[C@@H]2CC[C@H](CC2)C2=CC=C(C=C2)CO)C=C1 | C21H24ClNO2
reactant | tetrabromomethane | 723 mg | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 572 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | trans-4-(4-Bromomethylphenyl)-N-(4-chlorobenzoyl)-N-methylcyclohexylamine | 250 mg | BrCC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N(C)C(C1=CC=C(C=C1)Cl)=O | C21H23BrClNO
